US06514993B1
2-Methoxybenzaldehyde (200 g) and ethyl acetoacetate (400 g) were mixed and cooled to 5° C. Piperidine (25 ml) was added and the mixture was stirred overnight at room temperature. The next day potassium tert-butoxide (25 g) was added. After 1.5 hours the mixture totally solidified and was left for 2 days. Ethanol (2000 ml) was added and the pricipitate was filtered off, washed with ethanol and finally dried in vacuo. Yield: 326 g. All of the thus obtained solid product (325 g) was added in small portions during one hour to a solution of potassium hydroxide (260 g) in water (320 ml) kept at 80-90° C. After stirring for further two hours at 80°, water (2000 ml) and diethyl ether (1000 ml) were added. After stirring, the organic phase was separated and discarded. To the remaining aqueous solution was added ice and concentrated hydrochloric acid until pH<1. After stirring for 45 minutes, the precipitated product was filtered off and dried. Yield of 3-(2-methoxyphenyl)-1,5-pentanedicarboxylic acid: 137 g, mp: 183-185° C. A mixture of the pentane-dicarboxylic acid (97 g) and urea (28 g) was heated at 160-165° C. for 2 hours. After cooling to 70° C., ethanol (150 ml) was added. The precipitated 4-(2-methoxyphenyl)-2,6-piperidinedione was filtered off and subsequently dried. Yield 66 g. Mp: 127-129° C. To a suspension of LiAlH4 (30 g) in dry THF (1000 ml) were added small portions (in total 65 g) of the piperidinedione while the temperature gradually raised to reflux. After reflux for 2.5 hours, the mixture was cooled below 10° C. and diluted aqueous NaOH solution (4M) (60 ml) was cautiously added. Precipitated inorganic salts were filtered off. The solvent was evaporated and the remaining oil was dissolved in dichloromethane, dried (anh. Na2SO4), filtered and dichloromethane evaporated leaving 56 g of 4-(2-methoxyphenyl)piperidine as an oil. All of the piperidine was dissolved in a mixture of 48% aqueous hydrobromic acid (400 ml) and a 33% solution of hydrogenbromide in acetic acid (400 ml). The solution was refluxed for 19 hours. Excess hydrobromic and acetic acids was evaporated in vacuo leaving 47 g of 4-(2-hydroxyphenyl)piperidine hydrobromide as a visceous oil. The hydrobromide (45 g) was dissolved in a mixture of water (300 ml) and THF (150 ml). Potassium carbonate (80 g) was added in small lots. A solution of di-tert-butyldicarbonate (40 g) in THF (150 ml) was added dropwise. The mixture was stirred overnight. The aqueous phase was separated and washed with dietyl ether (2×100 ml). The combined organic phases were dried (anh. MgSO4) and the solvents evaporated. The remaining product was stirred with diisopropyl ether and the precipitated product was filtered off. Yield of the title phenol derivative 5a: 24 g, mp: 187-189° C.

reactant | 2-Methoxybenzaldehyde | 200 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | ethyl acetoacetate | 400 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Piperidine | 25 ml | N1CCCCC1 | C5H11N
reactant | potassium tert-butoxide | 25 g | CC(C)([O-])C.[K+]
solvent | Ethanol | 2000 ml | C(C)O | C2H6O
product | 4-(2-methoxyphenyl)piperidine | 56 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
